US07595320B2
A solution of 50 g (0.21 mol) of ethyl 3-amino-4-cyano-5-methylsulfanylthiophene-2-carboxylate in 500 mL of dimethylformamide under an argon atmosphere is heated to a temperature in the region of 60° C., and a solution of 71.1 mL (0.45 mol) of isopentyl nitrite in 100 mL of dimethylformamide is then introduced with stirring, while maintaining the temperature between 65 and 70° C. The reaction mixture is then stirred at a temperature in the region of 60° C. for 2.5 hours, and then cooled to a temperature in the region of 25° C. and stirred for one hour. The mixture is then treated with 1 L of ice-cold water and then stirred at a temperature in the region of 0° C. for one hour. The precipitate obtained is filtered off and then washed successively three times with 200 mL of water and three times with 200 mL of petroleum ether. 40.5 g (86%) of ethyl 4-cyano-5-methylsulfanylthiophene-2-carboxylate are thus obtained, after drying under reduced pressure, in the form of a yellow crystalline powder melting at 100° C. MS-CI (NH3): 245(+)=(M+NH4)(+).

reactant | ethyl 3-amino-4-cyano-5-methylsulfanylthiophene-2-carboxylate | 0.21 mol, 50 g | NC1=C(SC(=C1C#N)SC)C(=O)OCC | C9H10N2O2S2
reactant | isopentyl nitrite | 0.45 mol, 71.1 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | ethyl 4-cyano-5-methylsulfanylthiophene-2-carboxylate | 40.5 g, 86% | C(#N)C=1C=C(SC1SC)C(=O)OCC | C9H9NO2S2
